US07138401B2
9-(2-bromo-3,4,5-trimethoxy-benzyl)-6-ethylsulfanyl-9H-purin-2-ylamine
A mixture of 6-bromo-9-(2-bromo-3,4,5-trimethoxy-benzyl)-9H-purin-2-ylamine (see previous example), EtSH, K2CO3 and THF was placed in a pressure vessel and heated to 70° C. for 6 h. Work-up and purification by preparative TLC (EtOAc:hexane 1:1) gave the title compound. HPLC Rt: 6.039 min. 1H-NMR (CDCl3): δ 7.72 (s, 1H), 6.62 (s, 1H), 5.30 (s, 2H), 4.98 (s, 2H), 3.91 (s, 3H), 3.88 (s, 3H), 3.74 (s, 3H), 3.35–3.29 (q, 2H), 1.44–1.41 (t, 3H).

reactant | 6-bromo-9-(2-bromo-3,4,5-trimethoxy-benzyl)-9H-purin-2-ylamine | BrC1=C2N=CN(C2=NC(=N1)N)CC1=C(C(=C(C(=C1)OC)OC)OC)Br | C15H15Br2N5O3
reactant | EtSH | CCS | C2H6S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 9-(2-bromo-3,4,5-trimethoxy-benzyl)-6-ethylsulfanyl-9H-purin-2-ylamine | BrC1=C(CN2C3=NC(=NC(=C3N=C2)SCC)N)C=C(C(=C1OC)OC)OC | C17H20BrN5O3S
